US07442794B2
2-Methyl-5-fluoro-3-nitrobenzoic Acid Methyl Ester
8.56 g (42.99 mmol) of 2-methyl-5-fluoro-3-nitrobenzoic acid is added in 76 ml of N,N-dimethylformamide and mixed with 9.15 g (64.48 mmol) of methyl iodide and 8.91 g (64.48 mmol) of potassium carbonate. After 65 hours of stirring at room temperature, the reaction mixture is added to ice water and extracted several times with ethyl acetate. The combined organic extracts are washed with water and brine. After drying (sodium sulfate), desiccant is suctioned out, and the solvent is spun off. Repeated chromatography on silica gel (mobile solvent ethyl acetate/hexane) yields the desired compound, specifically in a yield of 25.9% (2.37 g).

reactant | 2-methyl-5-fluoro-3-nitrobenzoic acid | 42.99 mmol, 8.56 g | CC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])F | C8H6FNO4
reactant | methyl iodide | 64.48 mmol, 9.15 g | CI | CH3I
reactant | potassium carbonate | 64.48 mmol, 8.91 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 76 ml | CN(C=O)C | C3H7NO
product | 2-Methyl-5-fluoro-3-nitrobenzoic Acid Methyl Ester | yield of 25.9% | COC(C1=C(C(=CC(=C1)F)[N+](=O)[O-])C)=O | C9H8FNO4
